US08791119B2
To a solution under nitrogen of 21.1 g (79.6 mmol) of tert-butyl 8-carbamoyl-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate in 600 ml of dichloromethane, cooled to −40° C., is added dropwise a solution of 10.6 g (79.6 mmol) of N-chlorosuccinimide in 200 ml of dichloromethane over about 40 minutes. Stirring is continued for 6 hours at a temperature of −40° C., 150 ml of water are then added and the reaction medium is allowed to warm to room temperature. The product is isolated by filtration and is washed with water to give 17.5 g of tert-butyl 8-carbamoyl-6-chloro-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate in the form of a whitish solid after drying under reduced pressure at 40° C. in the presence of phosphorus pentoxide.

reactant | tert-butyl 8-carbamoyl-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 79.6 mmol, 21.1 g | C(N)(=O)C=1C=CN2C1CN(CC2)C(=O)OC(C)(C)C | C13H19N3O3
reactant | N-chlorosuccinimide | 79.6 mmol, 10.6 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | 150 ml | O | H2O
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | tert-butyl 8-carbamoyl-6-chloro-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 17.5 g | C(N)(=O)C=1C=C(N2C1CN(CC2)C(=O)OC(C)(C)C)Cl | C13H18ClN3O3
